US07601844B2
Step 1 3-(N,N-dimethylsulfamoyl)benzoic acid
A solution of 3-(chlorosulfonyl)benzoic acid (152 mg, 0.689 mmol) in methylene chloride (2 mL) was treated with 2.0 M dimethylamine in THF (1.137 mL, 2.274 mmol), and the mixture was stirred overnight at room temperature. The reaction was quenched with 1 N HCl, and extracted 3× with EtOAc. The combined organic phases were washed with 1 N HCl followed by brine, then dried over sodium sulfate and concentrated in-vacuo to yield the title compound (138 mg, 0.602 mmol, 87% yield). MS (ESI+)=230.18, (M+H)+.

reactant | 3-(chlorosulfonyl)benzoic acid | 0.689 mmol, 152 mg | ClS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C7H5ClO4S
reactant | dimethylamine | 2.0 M | CNC | C2H7N
reactant | THF | 2.274 mmol, 1.137 mL | C1CCOC1 | C4H8O
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 3-(N,N-dimethylsulfamoyl)benzoic acid | 0.602 mmol, 138 mg, 87% yield | CN(S(=O)(=O)C=1C=C(C(=O)O)C=CC1)C | C9H11NO4S
